US05106871
Then, 14.2 g of 1-(4-methoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-methoxyphenyl)-1-propanone was dissolved in 80 ml of methanol, and 100 ml of a 5% aqueous solution of potassium hydroxide was added to the solution and the mixture was stirred at room temperature for 30 minutes. After the reaction, the reaction mixture was made acidic by dilute hydrochloric acid and extracted with diethyl ether. The solvent was removed from the diethyl ether layer by distillation to obtain 13.1 g (yield=95.3%) of 1-(carboxymethoxy-4-methoxy-3-isopentylphenyl)-3-(4-methoxyphenyl)-1-propanone in the form of a colorless oil.

reactant | 1-(4-methoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-methoxyphenyl)-1-propanone | 14.2 g | COC1=C(C(=C(C=C1)C(CCC1=CC=C(C=C1)OC)=O)OCC(=O)OC)CCC(C)C | C25H32O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 1-(carboxymethoxy-4-methoxy-3-isopentylphenyl)-3-(4-methoxyphenyl)-1-propanone | 13.1 g, yield=95.3% | C(=O)(O)COC1=C(C=CC(=C1CCC(C)C)OC)C(CCC1=CC=C(C=C1)OC)=O | C24H30O6
